US03988373
To a solution of [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]dimethylamine (3.0 g) in benzene (20 cc) was added methyliodide (10.0 g), and the mixture was allowed to stand over night. Precipitated crystals were gathered by filtration, and recrystallized from a mixed solvent of benzene and ether to give colorless crystals (4.4 g) of [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]trimethylammonium iodide.

reactant | [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]dimethylamine | 3.0 g | CC(CCC1C(CCCC1(C)C)C)N(C)C | C15H31N
reactant | methyliodide | 10.0 g | CI | CH3I
solvent | benzene | 20 cc | C1=CC=CC=C1 | C6H6
product | [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]trimethylammonium iodide | 4.4 g | [I-].CC(CCC1C(CCCC1(C)C)C)[N+](C)(C)C | InChI=1S/C16H34N.HI/c1-13-9-8-12-16(3,4)15(13)11-10-14(2)17(5,6)7;/h13-15H,8-12H2,1-7H3;1H/q+1;/p-1
